US06149980
Preparation of C4F9OCH2I
C4F9OCH2Cl (50 g, 0.175 mole, isomer ratio n/i=95:5) was combined with sodium iodide (52.5 g, 0.38 mole) in acetone (200 g) and heated to reflux overnight. Water was added and the acetone distilled from the reaction vessel using a Dean-Stark apparatus. The product was washed with water to remove residual acetone. Glc of the residue (52.6 g) revealed it to be 82.6 wt. % of the desired product C4F9OCH2I, which was further purified by distillation. The distillation fraction boiling at 110-115° C. was found to be 97.8 wt. % of the desired product with a 96/4 normal to iso ratio.

reactant | C4F9OCH2Cl | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)OCCl | C5H2ClF9O
reactant | sodium iodide | 0.38 mole, 52.5 g | [I-].[Na+]
reactant | Water | O | H2O
solvent | acetone | 200 g | CC(=O)C | C3H6O
product | C4F9OCH2I | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)OCI | C5H2F9IO
